US05998437
To 500 ml of ethanol solution containing 26 g of 2-benzylamino-4-chloroaniline was added 45.7 g of polymer form (45-50% toluene solution) of ethyl glyoxylate, further 28.4 g of iodine was added and the reaction mixture was stirred at room temperature for 20 minutes. Then 27.8 g of sodium thiosulfate aqueous solution was added thereto, the crystals being separated were collected by filtration, and washed with water and ethanol, then dried. There was obtained 26.1 g of ethyl 1-benzyl-6-chlorobenzimidazol-2-carboxylate as in the form of pale brown powdery product.

reactant | 2-benzylamino-4-chloroaniline | 26 g | C(C1=CC=CC=C1)NC1=C(N)C=CC(=C1)Cl | C13H13ClN2
reactant | ethyl glyoxylate | C(C=O)(=O)OCC | C4H6O3
reactant | iodine | 28.4 g | II | I2
reactant | sodium thiosulfate | 27.8 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | ethyl 1-benzyl-6-chlorobenzimidazol-2-carboxylate | 26.1 g | C(C1=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)Cl)C(=O)OCC | C17H15ClN2O2
